US04041044
When in Example 1, the 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene is replaced by an equivalent amount of 2'-hydroxy-3'-tert-butyl-5'-methyl-5-chloro-2-nitroazobenzene and the ratio of the moles of alkali to moles of o-nitroazobenzene intermediate is 0.848/1, the product 5-chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole is obtained.

reactant | 2'-hydroxy-3',5'-di-tert-amyl-2-nitroazobenzene | OC1=C(C=C(C=C1C(C)(C)CC)C(C)(C)CC)N=NC1=C(C=CC=C1)[N+](=O)[O-] | C22H29N3O3
reactant | 2'-hydroxy-3'-tert-butyl-5'-methyl-5-chloro-2-nitroazobenzene | OC1=C(C=C(C=C1C(C)(C)C)C)N=NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C17H18ClN3O3
reactant | o-nitroazobenzene | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=CC=CC=C1 | C12H9N3O2
product | 5-chloro-2-(2-hydroxy-3-tert-butyl-5-methylphenyl)-2H-benzotriazole | ClC1=CC=2C(=NN(N2)C2=C(C(=CC(=C2)C)C(C)(C)C)O)C=C1 | C17H18ClN3O
